US04749792
(B) (2-Methylpropyl)(phenylmethyl)amine
To a stirred solution of lithium aluminum hydride (23 g, 606 mmol) in ether (115 ml) was added an ethereal solution (115 ml) of N-benzylidene-2-methyl-1-propanamine (72.1 g, 447 mmol) over a period of 45 minutes. It was then refluxed for one hour. The reaction mixture was cooled in an ice bath and while stirring vigorously, aqueous sodium hydroxide (20%, 120 ml) was added dropwise. The ether solution was separated, dried over magnesium sulfate and concentrated to dryness yielding 66.1 g of the title compound.

reactant | lithium aluminum hydride | 606 mmol, 23 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-benzylidene-2-methyl-1-propanamine | 447 mmol, 115 ml, 72.1 g | C(C1=CC=CC=C1)=NCC(C)C | C11H15N
reactant | sodium hydroxide | 120 ml | [OH-].[Na+]
solvent | ether | 115 ml | CCOCC | C4H10O
product | (2-Methylpropyl)(phenylmethyl)amine | 66.1 g | CC(CNCC1=CC=CC=C1)C | C11H17N
